US07361678B2
[3-(4-{4-[4-(adamantan-1-ylmethoxy)-phenyl]-2-isobutyl-imidazol-1-yl}-phenoxy)-propyl]-diethyl-amine
To a stirred solution of N,N-diethyl-N-[3-(4-nitrophenoxy)propyl]amine (1.0 eq., 2.5 mmol) in anhydrous DMF (20 mL) DIEA (3 eq) was added, followed by slow addition of the 1-[4-(benzyloxy)phenyl]-2-bromoethanone (2.5 mmol). The reaction mixture was stirred under nitrogen at rt until completion, as indicated by HPLC. The reaction mixture was then diluted with cold H2O and the product was isolated in Et2O. The combined organic layers were washed with brine and dried over sodium sulfate. Evaporation of solvent in vacuuo afforded the desired product. The crude alkylated aniline was purified by chromatography (Silica gel). Pure product was obtained from 2–7% MeOH/DCM (yield ˜30%).

reactant | N,N-diethyl-N-[3-(4-nitrophenoxy)propyl]amine | 2.5 mmol, 1.0 eq. | C(C)N(CCCOC1=CC=C(C=C1)[N+](=O)[O-])CC | C13H20N2O3
reactant | DMF | 20 mL, 3 eq | CN(C)C=O | C3H7NO
reactant | 1-[4-(benzyloxy)phenyl]-2-bromoethanone | 2.5 mmol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
solvent | H2O | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | [3-(4-{4-[4-(adamantan-1-ylmethoxy)-phenyl]-2-isobutyl-imidazol-1-yl}-phenoxy)-propyl]-diethyl-amine | C12(CC3CC(CC(C1)C3)C2)COC2=CC=C(C=C2)C=2N=C(N(C2)C2=CC=C(OCCCN(CC)CC)C=C2)CC(C)C | C37H51N3O2
